US07459448B2
4-Dimethylaminomethylene-7-iodo-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (v-a)
To a solution of 7-iodo-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (iv-a) (1.67 g, 5.54 mmol) in THF (15 mL) was added dimethylformamide dimethylacetal (4.0 mL, 27.7 mmol) and the reaction mixture heated to 70° C. for 1 h. The reaction mixture was cooled to 22° C., treated with Et2O (50 mL), and the resulting precipitate filtered and dried in vacuo to give v-a (1.64 g, 83%) as a brown powder: MS m/z═357 (M+H).

reactant | 7-iodo-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | 5.54 mmol, 1.67 g | IC1=CC2=C(NC(CCC2=O)=O)C=C1 | C10H8INO2
reactant | dimethylformamide dimethylacetal | 27.7 mmol, 4.0 mL | COC(N(C)C)OC | C5H13NO2
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-Dimethylaminomethylene-7-iodo-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | CN(C)C=C1C(C2=C(NC(C1)=O)C=CC(=C2)I)=O | C13H13IN2O2
